US05563136
5-(3-Nitrobenzylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione can be obtained in the following manner: a solution of 30.2 g of 3-nitrobenzaldehyde and 2,2-dimethyl-1,3-dioxane-4,6-dione in 400 cm3 of dimethylformamide is stirred for 18 hours at a temperature near to 20° C. The reaction mixture is diluted with 500 cm3 of ethyl acetate, washed five times with water, dried over magnesium sulphate, filtered and concentrated to dryness (1.2 kPa) to give an oil. This oil is crystallized in 100 cm3 of ethanol to give 26 g of 5-(3-nitrobenzylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione in the form of a solid melting at 128° C.

reactant | 3-nitrobenzaldehyde | 30.2 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | CC1(OC(CC(O1)=O)=O)C | C6H8O4
solvent | dimethylformamide | 400 cm3 | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 500 cm3 | C(C)(=O)OCC | C4H8O2
product | 5-(3-nitrobenzylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 26 g | [N+](=O)([O-])C=1C=C(C=C2C(OC(OC2=O)(C)C)=O)C=CC1 | C13H11NO6
